US06133258
The reaction procedure of Example 11 was followed except that 646 mg of 2-(4-trifluoromethylanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one, 18 mg of lithium hydride and 0.13 ml of methyl iodide were used. As a result, 565 mg of 3-methyl-2-[(4-trifluoromethylphenyl)imino]-2,3-dihydro-4H-pyrido[3,2-e]-1,3-thiazin-4-one was obtained as a low polarity substance, and 25 mg of 2-[N-methyl-N-(4-trifluoromethylphenyl)amino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one was obtained as a high polarity substance.

reactant | 2-(4-trifluoromethylanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 646 mg | FC(C1=CC=C(NC=2SC3=C(C(N2)=O)C=CC=N3)C=C1)(F)F | C14H8F3N3OS
reactant | lithium hydride | 18 mg | [H-].[Li+]
reactant | methyl iodide | 0.13 ml | CI | CH3I
product | 3-methyl-2-[(4-trifluoromethylphenyl)imino]-2,3-dihydro-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 565 mg | CN1C(SC2=C(C1=O)C=CC=N2)=NC2=CC=C(C=C2)C(F)(F)F | C15H10F3N3OS
